US08138183B2
1-[4-[4-[2-(Benzenesulfonyl)propan-2-yl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]-3-methylthiourea
A solution of 4-[4-[2-(benzenesulfonyl)propan-2-yl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]aniline (0.091 g, 0.2 mmol) in THF (1.0 mL) was added to a solution of di(imidazol-1-yl)methanethione (0.050 g, 0.28 mmol) in DCM (1.0 mL) and the resulting solution was stirred at 40° C. for 30 minutes. A solution of methylamine (2.0M in THF, 0.5 mL, 1.0 mmol) was added and the reaction was stirred at 40° C. for 30 minutes and the solvent was evaporated. The crude material was purified by preparative HPLC to give the desired material as a solid (63 mg).

reactant | 4-[4-[2-(benzenesulfonyl)propan-2-yl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]aniline | 0.2 mmol, 0.091 g | C1(=CC=CC=C1)S(=O)(=O)C(C)(C)C1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(N)C=C1 | C24H28N4O3S
reactant | di(imidazol-1-yl)methanethione | 0.28 mmol, 0.050 g | N1(C=NC=C1)C(=S)N1C=NC=C1 | C7H6N4S
reactant | methylamine | 1.0 mmol, 2.0M, 0.5 mL | CN | CH5N
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
solvent | DCM | 1.0 mL | C(Cl)Cl | CH2Cl2
product | 1-[4-[4-[2-(Benzenesulfonyl)propan-2-yl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]-3-methylthiourea | 63 mg | C1(=CC=CC=C1)S(=O)(=O)C(C)(C)C1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(C=C1)NC(=S)NC | C26H31N5O3S2
